US07449460B2
A mixture of 0.5 g (1.45 mmol) of 4-chloro-6-nitro-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile, 0.38 g (1.6 mmol) of 3-chloro-4-[(1-methyl-1H-imidazole-2-yl)sulfanyl]aniline and 0.17 g of pyridine hydrochloride in 7.0 mL of 2-ethoxyethanol is heated at 105° C. for 1 hour. After cooling to room temperature, the mixture is stirred with 15 mL of saturated solution of sodium bicarbonate. The resulting solid is collected by filtration and washed with water. Some of the product dissolves in water, which is recovered by extracting the aqueous layer with solution of 95:5 methylene chloride/methanol. The organic layer is evaporated to provide crude product. The combined solids are purified by silica gel chromatography (gradient 95:5methylene chloride/methanol to 4:1 methylene chloride/methanol) gives 0.52 g of 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-nitro-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile as an orange solid, mp 220-230° C.

reactant | 4-chloro-6-nitro-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile | 1.45 mmol, 0.5 g | ClC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])N1CCC(CC1)N1CCCC1)C#N | C19H20ClN5O2
reactant | 3-chloro-4-[(1-methyl-1H-imidazole-2-yl)sulfanyl]aniline | 1.6 mmol, 0.38 g | ClC=1C=C(N)C=CC1SC=1N(C=CN1)C | C10H10ClN3S
reactant | pyridine hydrochloride | 0.17 g | Cl.N1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-ethoxyethanol | 7.0 mL | C(C)OCCO | C4H10O2
product | 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-nitro-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile | 0.52 g | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])N1CCC(CC1)N1CCCC1)C#N | C29H29ClN8O2S
